US09422244B2
0.57 g (1 mol equiv.) 4-Ethyl-N-(2,2,2-trifluoro-ethyl)-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester and 3.0 g (6.8 mol equiv.) 3-chloro-benzenesulfonamide were added to 20 mL acetonitrile. The reaction mixture was refluxed for 72 hours, and volatiles were removed under reduced pressure. The residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O:PA=1:1) afforded 0.36 g (38%) 3-chloro-N-[(4-ethyl-4,5-dihydro-pyrazol-1-yl)-(2,2,2-trifluoro-ethylamino)-methylene]-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 1.00 (t, J=7.5 Hz, 3H), 1.51-1.74 (m, 2H), 3.16-3.27 (m, 1H), 3.87 (dd, J=11.2, 7.5 Hz, 1H), 4.03-4.14 (m, 2H), 4.28 (t, J=11.2 Hz, 1H), 7.03 (d, J=1.5 Hz, 1H), 7.41 (t, J=7.8 Hz, 1H), 7.46-7.50 (m, 1H), 7.79-7.84 (m, 1H), 7.91-7.94 (m, 1H).

reactant | 4-Ethyl-N-(2,2,2-trifluoro-ethyl)-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1 mol, 0.57 g | CSC(=NCC(F)(F)F)N1N=CC(C1)CC | C9H14F3N3S
reactant | 3-chloro-benzenesulfonamide | 6.8 mol, 3.0 g | ClC=1C=C(C=CC1)S(=O)(=O)N | C6H6ClNO2S
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-chloro-N-[(4-ethyl-4,5-dihydro-pyrazol-1-yl)-(2,2,2-trifluoro-ethylamino)-methylene]-benzenesulfonamide | 0.36 g, 38% | ClC=1C=C(C=CC1)S(=O)(=O)N=C(NCC(F)(F)F)N1N=CC(C1)CC | C14H16ClF3N4O2S
